US03998822
1 part by weight of 1,4-dimethylmercapto-7-phenylpyrido(3,4-d)pyridazine and 10 parts by volume of morpholine are placed in a glass tube, and the glass tube is sealed. The reaction system is heated at 180° C for 8 hours. The excess amount of morpholine is removed by evaporating under reduced pressure, and water is added to the residue. Thus precipitated crude crystals are collected by filtration. The crude crystals are adsorbed on a column packed with silica-gel, followed by eluting with a mixture of acetone and benzene (1:4). The eluate is concentrated under reduced pressure and recrystallized from methanol to obtain 1,4-dimorpholino-7-phenylpyrido(3,4-d)pyridazine as pale yellow needles melting at 186° to 188° C.

reactant | 1,4-dimethylmercapto-7-phenylpyrido(3,4-d)pyridazine | CSC1=C2C(=C(N=N1)SC)C=NC(=C2)C2=CC=CC=C2 | C15H13N3S2
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 1,4-dimorpholino-7-phenylpyrido(3,4-d)pyridazine | O1CCN(CC1)C1=C2C(=C(N=N1)N1CCOCC1)C=NC(=C2)C2=CC=CC=C2 | C21H23N5O2
